US07612067B2
B. 4-Methyl 3-thiophene boronic acid.
A solution of 4,4,5,5-tetramethyl-2-(4-methyl-thiophen-3-yl)-[1,3,2]dioxaborolane (3.69 g, 16.47 mmol) in acetone (30 mL) is treated with H2O (30 mL), followed by NaIO4 (7.05 g, 32.95 mmol). The resulting mixture is stirred at rt overnight. The organic solvent is removed in vacuo. The residue is diluted with H2O (50 mL), extracted with EtOAc ((2×100 mL). The organic extracts are combined, dried with Na2SO4, filtered and concentrated. Purification of the crude material by chromatography gives the title compound (0.82 g, 5.78 mmol, 35%). 1H NMR (CDCl3): δ 1.33 (s, 3H), 2.64-2.66 (m, 2H), 7.00-7.02 (m, 1H), 8.27 (d, J=3.0 Hz, 1H). ES-MS (m/z): calcd for C5H7BO2S (M−H)−: 141.0; found: 141.1.

reactant | 4,4,5,5-tetramethyl-2-(4-methyl-thiophen-3-yl)-[1,3,2]dioxaborolane | 16.47 mmol, 3.69 g | CC1(OB(OC1(C)C)C1=CSC=C1C)C | C11H17BO2S
reactant | H2O | 30 mL | O | H2O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-Methyl 3-thiophene boronic acid | 5.78 mmol, 0.82 g, 35% | CC=1C(=CSC1)B(O)O | C5H7BO2S
